US09216980B2
Step 3: 3-Hydroxy-9-(2-trimethylsilanyl-ethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
To a solution of 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (245 mg, 0.54 mmol) in THF (2.0 mL), under an inert atmosphere, was added N-methylmorpholine-N-oxide (191 mg, 1.63 mmol) and the reaction mixture was heated under reflux for 90 minutes. The reaction mixture was allowed to cool to ambient temperature and the solvent removed in vacuo. The residue was purified by flash chromatography (silica, 12 g column, ISCO 0-50% ethyl acetate in cyclohexane) to afford the title compound as a white solid (180 mg, 97%). 1H NMR (CD3OD, 300 MHz): 9.10 (d, J=1.0 Hz, 1H), 8.64 (d, J=1.3 Hz, 1H), 8.35 (d, J=2.7 Hz, 1H), 8.04 (d, J=2.7 Hz, 1H), 5.99 (s, 2H), 3.59 (t, J=8.0 Hz, 2H), 0.86 (t, J=8.0 Hz, 2H), −0.14 (s, 9H). LCMS (Method B): RT=3.75 min, M+H+=341.

reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.54 mmol, 245 mg | CC1(OB(OC1(C)C)C1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1)C | C23H31BN4O3Si
reactant | N-methylmorpholine-N-oxide | 1.63 mmol, 191 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-9-(2-trimethylsilanyl-ethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 180 mg, 97% | OC1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1 | C17H20N4O2Si
